US07482354B2
8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B00-X00-M00(C01)-D03]
2.5 g of ethyl 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (9.16 mmol) were dissolved in 40 mL of methanol, 40 mL of dimethylformamide and 50 mL of NH4OH 30% mixture. The mixture was maintained at 65° C. under stirring for a day. The solvent was then evaporated to dryness, the residue redissolved with dichloromethane and washed with water. The organic layer was dried over Na2SO4 and evaporated. The crude was triturated with diethyl ether and the product collected by filtration (50% yield).

reactant | ethyl 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 9.16 mmol, 2.5 g | NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)OCC | C13H13N5O2
reactant | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
reactant | NH4OH | 50 mL | [NH4+].[OH-]
solvent | methanol | 40 mL | CO | CH4O
product | 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 50% yield | NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)N | C11H10N6O
